US04199506
Preparation of Ethyl 2-Fluoro-4-Trifluoromethyl-5-Thiazolecarboxylate.
A mixture of 26 g (0.1 mole) of ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate, 37 g (0.55 mole) of potassium fluoride, and 0.11 g of 1,4,7,10,13,16-hexaoxacyclooctadecane (18-CROWN-6, Aldrich Chemical Company) was held at reflux for 23 hours. Since an analysis showed the reaction to be incomplete, another 45 g (0.77 mole) of potassium fluoride was added and the reaction mixture held at reflux for 64 hours. To said mixture, 0.15 g of 18-CROWN-6 and an additional 27 g (0.40 mole) of potassium was added and held at reflux for 22 hours. Due to poor cooling overnight some of the solvent had evaporated. The reaction mixture was cooled and 300 ml. of acetonitrile added. The acetonitrile was filtered and concentrated. The residue was Kugelrohr distilled to give 13.7 g of a material which was separated by spinning band column at 15 mm Hg to give 4.2 g of the desired product, nD24 =1.4348.

reactant | ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate | 0.1 mole, 26 g | ClC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C7H5ClF3NO2S
reactant | potassium fluoride | 0.55 mole, 37 g | [F-].[K+]
reactant | potassium fluoride | 0.77 mole, 45 g | [F-].[K+]
reactant | potassium | 0.40 mole, 27 g | [K] | K
catalyst | 1,4,7,10,13,16-hexaoxacyclooctadecane | 0.11 g | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
catalyst | 18-CROWN-6 | 0.15 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | Ethyl 2-Fluoro-4-Trifluoromethyl-5-Thiazolecarboxylate | 13.7 g | FC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C7H5F4NO2S
